US06228868B1
methyl 3-trifluoroacetyl-5-indolecarboxylate
A solution of trifluoroacetic anhydride (5.25 g, 25.0 mmol) in dichloroethane (50 mL) at 0° C. was treated with methyl 5-indolecarboxylate (0.876 g, 5.0 mmol), warmed gradually to room temperature, stirred for 24 hours, and treated with pentane to provide 1.06 g of the desired product

reactant | trifluoroacetic anhydride | 25.0 mmol, 5.25 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methyl 5-indolecarboxylate | 5.0 mmol, 0.876 g | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
reactant | pentane | CCCCC | C5H12
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | methyl 3-trifluoroacetyl-5-indolecarboxylate | 1.06 g | FC(C(=O)C1=CNC2=CC=C(C=C12)C(=O)OC)(F)F | C12H8F3NO3
